US05872137
In a reaction vessel were placed 0.20 g of 3,5-dichloro-4-(3-bromopropyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene, 0.11 g of 4-chlorophenoxyacetic acid, 0.08 g of potassium carbonate and 5 ml of N,N-dimethylformamide, followed by stirring at room temperature for 12 hours. The reaction mixture was poured into water, and extracted twice with 30 ml of diethyl ether. The combined ether layer was washed with water, dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 0.23 g of 3,5-dichloro-4-(3-(4-chlorophenoxyacetyloxy)propyloxy)-1-(3,3-dichloro-2-propenyloxy) benzene (91% yield), nD22.0 1.5709.

reactant | 3,5-dichloro-4-(3-bromopropyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 0.20 g | ClC=1C=C(C=C(C1OCCCBr)Cl)OCC=C(Cl)Cl | C12H11BrCl4O2
reactant | 4-chlorophenoxyacetic acid | 0.11 g | ClC1=CC=C(OCC(=O)O)C=C1 | C8H7ClO3
reactant | potassium carbonate | 0.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3,5-dichloro-4-(3-(4-chlorophenoxyacetyloxy)propyloxy)-1-(3,3-dichloro-2-propenyloxy) benzene | 0.23 g, 91% yield | ClC=1C=C(C=C(C1OCCCOC(COC1=CC=C(C=C1)Cl)=O)Cl)OCC=C(Cl)Cl | C20H17Cl5O5
